US07462611B2
a) N-(4-Nitro-phenyl)-methanesulfonamide
4-Nitro-phenylamine (25 g, 181 mmol) was dissolved in pyridine (450 mL). Methanesulfonyl chloride (14.0 mL, 181 mmol) was added dropwise while stirring. The mixture was stirred for 16 h at 25° C. The solution was concentrated in vacuo to a volume of ˜50 mL. The mixture was diluted with ethyl acetate (400 mL), washed with 1.0 M aqueous hydrochloric acid solution (5×200 mL). The combined aqueous layers were back-extracted with ethyl acetate (200 mL). The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo to a volume of ˜250 mL. The product precipitated and was collected by vacuum filtration. The filtrate was concentrated in vacuo to a volume of ˜125 mL upon which additional product precipitated. The solid was collected by vacuum filtration. The solids were combined to afford the desired product, N-(4-nitro-phenyl)-methanesulfonamide (25 g, 115.62 mmol, 64% yield) as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 3.17 (3H, s), 7.35 (2H, d, J=9.4 Hz), 8.20 (2H, d, J=9.1 Hz), 10.69 (1H, s).

reactant | 4-Nitro-phenylamine | 181 mmol, 25 g | [N+](=O)([O-])C1=CC=C(C=C1)N | C6H6N2O2
reactant | Methanesulfonyl chloride | 181 mmol, 14.0 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 450 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-nitro-phenyl)-methanesulfonamide | 115.62 mmol, 25 g, 64% yield | [N+](=O)([O-])C1=CC=C(C=C1)NS(=O)(=O)C | C7H8N2O4S
